US04585772
9-Nitro-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
7 ml of concentrated H2SO4 were added, whilst cooling, to 5 ml of 98% strength HNO3. 9.3 g (0.05 mol) of 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline were added in portions at 0° to 5° C. to this mixture, and the latter was stirred for 2 hours at room temperature. The reaction mixture was then poured into ice water, and the precipitated deposit was filtered off under suction. It was neutralised in water with NaHCO3, the mixture being heated to boiling for a short time. After the mixture had been cooled, the precipitate was again filtered off under suction, washed with ethanol and ether, and dried.

reactant | H2SO4 | 7 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 0.05 mol, 9.3 g | O=C1NC=2C=CC=CC2C=2N1CCN2 | C10H9N3O
product | 9-Nitro-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | [N+](=O)([O-])C1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C10H8N4O3
